US06653308B2
Synthesis of 5-[5-bromo-2-oxo-1,2-dihydro-indol-(3Z)-ylidene-methyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-hydroxy-3-morpholin-4-yl-propyl)-amide
5-(5-Bromo-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (72.2 mg, 0.2 mmol) was condensed with 1-amino-3-morpholin-4-yl-propan-2-ol (38 mg, 0.24 mmol) to precipitate 5-[5-Bromo-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-hydroxy-3-morpholin-4-yl-propyl)-amide (55 mg, 55%). 1H NMR (DMSO-d6) δ2.27 (m, 1H), 2.32 (m, 1H), 2.39(m, 4H), 2.41, 2.42 (2×s, 6H, 2×CH3), 3.13 (s, 1H), 3.35 (m, 1H), 3.55 (m, 4H), 3.77 (m, 1H), 4.74 (d, J=4.4 Hz, 1H, OH), 6.80 (d, J=8.4 Hz, 1H), 7.24 (dd, J=2.0, 8.0 Hz, 1H), 7.51 (t, J=5.6 Hz, 1H), 7.76 (s, 1H), 8.09 (d, J=2.0 Hz, 1H) (aromatic and vinyl), 10.99 (s, 1H, CONH), 13.62 (s, 1H, NH). LC-MS (m/z) 503.4 (M−1).

reactant | 5-(5-Bromo-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 0.2 mmol, 72.2 mg | BrC=1C=C2C(C(NC2=CC1)=O)=CC1=C(C(=C(N1)C)C(=O)O)C | C16H13BrN2O3
reactant | 1-amino-3-morpholin-4-yl-propan-2-ol | 0.24 mmol, 38 mg | NCC(CN1CCOCC1)O | C7H16N2O2
product | 5-[5-bromo-2-oxo-1,2-dihydro-indol-(3Z)-ylidene-methyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-hydroxy-3-morpholin-4-yl-propyl)-amide | OC(CNC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)Br)=O)C)CN1CCOCC1 | C23H27BrN4O4
